US04000156
b. 1-phenyl-3-amino-4-methyl-2-pyrazolin-5-one
A solution of 261 g (1 mole) of 1-phenyl-3-carbethoxyamino-4-methyl-2-pyrazolin-5-one in 1600 ml of 2.5 N sodium hydroxide was refluxed for 30 min. The solution was cooled and neutralized by addition of 250 ml of concentrated hydrochlorid acid and 50 ml of glacial acetic acid. The precipitate was separated and dried. Yield: 160 g (84%). Melting point: 147° C.

reactant | 1-phenyl-3-carbethoxyamino-4-methyl-2-pyrazolin-5-one | 1 mole, 261 g | C1(=CC=CC=C1)N1N=C(C(C1=O)C)NC(=O)OCC | C13H15N3O3
reactant | hydrochlorid | 250 ml | Cl | ClH
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 2.5 N, 1600 ml | [OH-].[Na+]
product | 1-phenyl-3-amino-4-methyl-2-pyrazolin-5-one | C1(=CC=CC=C1)N1N=C(C(C1=O)C)N | C10H11N3O
